US08334295B2
4-Bromo-2-methoxy-6-methyl-phenylamine:
In a 100 mL round bottom flask, 2-methoxy-6-methyl-phenylamine (4.54 g, 33.16 mmol) was dissolved in 15 mL MeOH and 5 mL acetic acid. The flask was cooled to 0° C. Bromine (1.7 mL, 33.16 mmol) in 5 mL acetic acid was added to the reaction dropwise (over 30 minutes). The reaction mixture was stirred at 0° C. for 2 hours, then was warmed up to room temperature for 1 hour. The reaction mixture was concentrated down. 1N NaOH was added to neutralize the reaction at 0° C. Ethyl acetate was added to extract the reaction mixture. The organic layer was concentrated after drying over anhydrous sodium sulfate to give a dark brown solid (5.8 g, 81%). LC-MS shows 218.0 (M+1). 1H NMR (300 MHz, CDCl3): δ 6.88 (s, 1H), 6.81 (s, 1H), 3.84 (s, 3H), 2.11 (s, 3H).

reactant | 2-methoxy-6-methyl-phenylamine | 33.16 mmol, 4.54 g | COC1=C(C(=CC=C1)C)N | C8H11NO
reactant | Bromine | 33.16 mmol, 1.7 mL | BrBr | Br2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 15 mL | CO | CH4O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-methoxy-6-methyl-phenylamine | 5.8 g, 81% | BrC1=CC(=C(C(=C1)C)N)OC | C8H10BrNO
